US08048894B2
Method 5. Preparation of 4-(3-(3-Carboxypropanoyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-7-yl)benzoic acid
tert-Butyl 4-(3-(3-(1,3-dioxan-2-yl)propanoyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-7-yl)benzoate. Methyl 7-(4-(tert-butoxycarbonyl)phenyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate (452 mg, 1104 μmol) was dissolved in THF (11 mL). Sodium hydride (60% in oil, 442 mg, 11040 μmol) was then added, and the resulting mixture was stirred at room temperature for 1 hour. 2-[2-(1,3-Dioxanyl)]ethylmagnesium bromide in THF (2208 μL, 1104 μmol) was then added dropwise, and the reaction mixture was then stirred for 1 hour. The reaction mixture was diluted with 150 mL of EtOAc, added to a separatory funnel, partitioned with 3 N HCl (aqueous), washed 2 times with 75 mL of brine (saturated, aqueous), separated, dried over sodium sulfate, and concentrated via rotary evaporation to give initial product. The initial product was purified via flash chromatography (silica gel) to provide the title compound as a beige solid.

reactant | tert-Butyl 4-(3-(3-(1,3-dioxan-2-yl)propanoyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-7-yl)benzoate | O1C(OCCC1)CCC(=O)C=1C(N(C2=CC(=CC=C2C1O)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)=O | C28H31NO7
reactant | Methyl 7-(4-(tert-butoxycarbonyl)phenyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate | 1104 μmol, 452 mg | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)OC)O | C23H23NO6
reactant | Sodium hydride | 11040 μmol, 442 mg | [H-].[Na+]
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | THF | 1104 μmol, 2208 μL | C1CCOC1 | C4H8O
product | 4-(3-(3-Carboxypropanoyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-7-yl)benzoic acid | C(=O)(O)CCC(=O)C=1C(N(C2=CC(=CC=C2C1O)C1=CC=C(C(=O)O)C=C1)C)=O | C21H17NO7
